US05728835
4-[(S)-2-(tert-Butoxycarbonylamino)propionyl]aminomethyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyethyl)benzamide
4-Aminomethyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyethyl)benzamide (120 mg, 0.245 mmol) was dissolved in methylene chloride (5 ml) to which were subsequently added Boc-L-alanine (46.4 mg, 0.245 mmol) and EDC hydrochloride (52 mg, 0.270 mmol) while cooling in an ice bath. After 4 hours of stirring at the same temperature, the reaction solution was mixed with water (10 ml), adjusted to pH 8 with saturated sodium bicarbonate aqueous solution and then extracted with methylene chloride. Thereafter, the resulting organic layer was dried on anhydrous sodium carbonate, the solvent was removed by evaporation, and the resulting residue was purified by a silica gel column chromatography (ethyl acetate) to obtain 109 mg (68.9%) of the title compound in a colorless amorphous form.

reactant | 4-Aminomethyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyethyl)benzamide | 0.245 mmol, 120 mg | NCC1=CC=C(C(=O)N(CCOC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C25H32FN3O3
reactant | Boc-L-alanine | 0.245 mmol, 46.4 mg | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | EDC hydrochloride | 0.270 mmol, 52 mg | CCN=C=NCCCN(C)C.Cl
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | water | 10 ml | O | H2O
product | 4-[(S)-2-(tert-Butoxycarbonylamino)propionyl]aminomethyl-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(2-methoxyethyl)benzamide | 109 mg, 68.9% | C(C)(C)(C)OC(=O)N[C@H](C(=O)NCC1=CC=C(C(=O)N(CCOC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1)C | C33H45FN4O6
